US07531532B2
4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide
To a solution of 4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylamine (70.0 mg) in tetrahydrofuran (3.5 ml) were added triethylamine (0.0862 ml) and phenyl chloroformate (0.0705 ml) in this order at room temperature, followed by stirring at room temperature for 30 min. The reaction mixture was concentrated to give a residue, to which were added N,N-dimethylformamide (2.5 ml), triethylamine (0.470 ml), 1-(1-methylazetidin-3-yl)piperazine trihydrochloride (329 mg) and water (0.025 ml), followed by stirring at room temperature for 2 days. An 1N aqueous solution of sodium hydroxide (30 ml) was added thereto, followed by stirring at room temperature for 5 hrs. The reaction mixture was extracted with ethyl acetate (100 ml). The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=20:1). Fractions containing the target compound were concentrated to provide the titled compound (121 mg, 92.6%) as a pale yellow oil.

reactant | 4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylamine | 70.0 mg | FC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C11H8FN3O3
reactant | phenyl chloroformate | 0.0705 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 1-(1-methylazetidin-3-yl)piperazine trihydrochloride | 329 mg | Cl.Cl.Cl.CN1CC(C1)N1CCNCC1
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | water | 0.025 ml | O | H2O
solvent | triethylamine | 0.470 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.0862 ml | C(C)N(CC)CC | C6H15N
product | 4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 121 mg, 92.6% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=CC(=C1)[N+](=O)[O-] | C20H23FN6O4
